US07452892B2
A. Preparation of 4,6-dimethoxypyrimidine
To a suspension of 4,6-dichloropyrimidine (6.5 g, 43.9 mmol) in methanol (30 mL) at room temperature under argon was added NaOMe (7.1 g, 132 mmol) over 5 min. The resulting suspension was heated at 65° C. under argon for 24 h. Analysis by HPLC/MS indicated that the reaction was complete. Most of the solvent was removed under reduced pressure, then 1 M aqueous HCl (50 mL) and CH2Cl2 (50 mL) were added to the residue. The layers were separated and the organic phase was washed with saturated aqueous NaCl (30 mL), then dried (Na2SO4), filtered and evaporated. The crude product was purified by silica gel column chromatography eluted with ethyl acetate-hexanes to obtain the title compound (5.76 g) as a low melting solid. See also Synthesis 1998, page 36.

reactant | 4,6-dichloropyrimidine | 43.9 mmol, 6.5 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | NaOMe | 132 mmol, 7.1 g | C[O-].[Na+]
reactant | methanol | 30 mL | CO | CH4O
product | 4,6-dimethoxypyrimidine | 5.76 g | COC1=NC=NC(=C1)OC | C6H8N2O2
